Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
aspirin
 
Attending: ___
 
Chief Complaint:
epigastric ventral hernia
 
Major Surgical or Invasive Procedure:
ventral hernia repair with mesh
 
History of Present Illness:
___ presented for elective repair of incarcerated ventral 
hernia. He first noticed the hernia ___ years ago. He has since 
begun to experience abdominal pain and bloating, which has 
limited his PO intake. Secondary to that, he has lost 
significant weight. He was referred to Dr. ___ elective 
___. 
 
Past Medical History:
HTN
Gout
Anxiety/Depression
 
Social History:
___
Family History:
FamHx: Father--deceased, Mother--deceased, siblings: alive--one 
sister at ___ children--alive, ___ daughter w/ myasthenia 
___

 
Physical Exam:
Gen: NAD
Resp: non-labored
CV: well-perfused
Abd: S/appropriate TTP/ND, incision c/d/I, JP w/ serosanguinous 
output
Ext: well-perfused
 
Pertinent Results:
None
 
Brief Hospital Course:
Patient presented to preop holding area on ___ in stable 
condition. He underwent uncomplicated ventral hernia repair with 
mesh under general anesthesia. A drain was placed to assist with 
extraperitoneal fluid drainage. Both his PACU and floor 
condition were stable and he was discharged in stable condition 
on ___. Drain removed day of discharge for low output. He is 
scheduled to follow-up with Dr. ___ on ___ at 1PM. 

Neuro: Pain controlled on PO Acetaminophen, PO Oxy, and IV 
Morphine. +Fluoxetine and Lorazepam (home meds) for 
anxiety/depression.

CV: PO Metoprolol, Lisinopril, and Amlodipine (home meds). 
Stable.

Resp: Encouraged use of IS. Patient was encouraged to be OOB. 
Stable.

GI: Abdominal exam stable. Placed on PPI (Omeprazole--home med). 
Fluid remained serosanguinous in JP bulb. 

GU: Allopurinol (home med). No foley.

Heme: SQH. Discontinued on discharge.

ID: Afebrile, no WBC. 

TLD: JPx1 drained q4h. PIV maintained until discharge.  Both 
discontinued upon discharge. 
 
Medications on Admission:
 
3.  Allopurinol ___ mg PO DAILY 
Take 1.5 tablets (450mg) daily--as previously prescribed.  
4.  amLODIPine 10 mg PO DAILY  
5.  FLUoxetine 80 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  LORazepam 1 mg PO BID:PRN anxiety  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN pain 
Do not take before driving, operating machinery, or with 
alcohol. Discontinue when not needed.  
3.  Allopurinol ___ mg PO DAILY 
Take 1.5 tablets (450mg) daily--as previously prescribed.  
4.  amLODIPine 10 mg PO DAILY  
5.  FLUoxetine 80 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  LORazepam 1 mg PO BID:PRN anxiety  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
status post epigastric ventral hernia repair with mesh

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You underwent repair of your epigastric hernia. Mesh was used in 
this repair. A drain was also placed to assist with fluid 
removal until complete healing is achieved.

Do not lift anything greater than 5lbs for the next ___ weeks.

Call to make an appointment with Dr. ___ in ___ 
days.

You will be set-up with a ___ nurse for drain care. It should be 
drained every ___ hours--less if output decreases, more often if 
needed.
 
Followup Instructions:
___